US04803280
A mixture of 200 g of N-(4-chlorophenylthioacetyl)piperidine, 117.5 g of bromoacetic acid and 600 ml of benzene was stirred overnight, then diluted with anhydrous ether and stirred overnight. The solid was collected and dried in vacuo giving 241 g of 1-[1-[(carboxymethyl)thio]2-(4-chlorophenyl)ethylidene]piperidinium bromide, mp 118°-120° C.

reactant | N-(4-chlorophenylthioacetyl)piperidine | 200 g | ClC1=CC=C(C=C1)CC(=S)N1CCCCC1 | C13H16ClNS
reactant | bromoacetic acid | 117.5 g | BrCC(=O)O | C2H3BrO2
reactant | benzene | 600 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 1-[1-[(carboxymethyl)thio]2-(4-chlorophenyl)ethylidene]piperidinium bromide | 241 g | [Br-].C(=O)(O)CSC(CC1=CC=C(C=C1)Cl)=[N+]1CCCCC1 | InChI=1S/C15H18ClNO2S.BrH/c16-13-6-4-12(5-7-13)10-14(20-11-15(18)19)17-8-2-1-3-9-17;/h4-7H,1-3,8-11H2;1H
